US04309441
A mixture of 9 g. of 5-bromopentanoic acid, 10.2 g. of dicyclohexyl carbodiimide and 10.75 g. of p-benzoylaminophenol was boiled for 2 hours in benzene. After cooling, the solution was filtered and the solvent distilled off. As a residue 5-bromopentanoic acid p-benzoylaminophenyl ester was obtained.

reactant | 5-bromopentanoic acid | BrCCCCC(=O)O | C5H9BrO2
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | p-benzoylaminophenol | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)O | C13H11NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-bromopentanoic acid p-benzoylaminophenyl ester | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)OC(CCCCBr)=O | C18H18BrNO3
